US07960369B2
3′-[4-(2-tert-butoxycarbonylethyl)phenoxymethyl]biphenyl-2-carboxylic acid
To a mixture of tert-butyl 3-[4-(2′-formylbiphenyl-3-ylmethoxy)phenyl]propanoate (1.5 g, 3.60 mmol), sodium dihydrogenphosphate (0.43 g, 3.60 mmol), 2-methyl-2-butene (1.72 mL, 16.2 mmol), tert-butanol (7 mL), water (15 mL) and tetrahydrofuran (15 mL) was added sodium chlorite (1.22 g, 10.8 mmol) with stirring at 0° C., and the mixture was stirred at the same temperature for 2 hrs. The reaction mixture was diluted with ethyl acetate, washed with water, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-1/2) to give the title compound (1.12 g, 72%) as a yellow oil.

reactant | tert-butyl 3-[4-(2′-formylbiphenyl-3-ylmethoxy)phenyl]propanoate | 3.60 mmol, 1.5 g | C(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C | C27H28O4
reactant | sodium dihydrogenphosphate | 3.60 mmol, 0.43 g | P(=O)(O)(O)[O-].[Na+]
reactant | 2-methyl-2-butene | 16.2 mmol, 1.72 mL | CC(C)=CC | C5H10
reactant | sodium chlorite | 10.8 mmol, 1.22 g | Cl(=O)[O-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | water | 15 mL | O | H2O
solvent | tert-butanol | 7 mL | C(C)(C)(C)O | C4H10O
product | 3′-[4-(2-tert-butoxycarbonylethyl)phenoxymethyl]biphenyl-2-carboxylic acid | 1.12 g, 72% | C(C)(C)(C)OC(=O)CCC1=CC=C(OCC=2C=C(C=CC2)C=2C(=CC=CC2)C(=O)O)C=C1 | C27H28O5
